US07262023B2
A solution of 9.17 g of cerium(III) chloride in 60 ml of tetrahydrofuran was mixed drop by drop at 0° C. with 74.2 ml of an ethinylmagnesium bromide solution (0.5 M in tetrahydrofuran) and stirred for 1 hour at 0° C. Then, a solution of 2 g of crude 11β-fluoro-3-methoxy-7α-methylestra-3,5-dien-17-one in 40 ml of tetrahydrofuran was added drop by drop and stirred for another 3.5 hours at 0° C. For working-up, a saturated ammonium chloride solution was added, added to water, extracted three times with ethyl acetate, washed with semiconcentrated hydrochloric acid, sodium bicarbonate solution and sodium chloride solution, dried on sodium sulfate, concentrated by evaporation in a vacuum and chromatographed on silica gel with hexane/ethyl acetate. 1.15 g of pure 17α-ethinyl-11β-fluoro-17β-hydroxy-7α-methylestr-4-en-3-one with a melting point of 218-220° C. was obtained. [α]D=+19.2° (CHCl3).

reactant | cerium(III) chloride | 9.17 g | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | ethinylmagnesium bromide | 0.5 M, 74.2 ml | C(#C)[Mg]Br
reactant | 11β-fluoro-3-methoxy-7α-methylestra-3,5-dien-17-one | 2 g | F[C@@H]1[C@@H]2[C@H]3CCC(=CC3=C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)C)OC | C20H27FO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 17α-ethinyl-11β-fluoro-17β-hydroxy-7α-methylestr-4-en-3-one | 1.15 g | C(#C)[C@]1([C@]2(C)[C@@H](CC1)[C@@H]1[C@@H](CC3=CC(CC[C@@H]3[C@H]1[C@H](C2)F)=O)C)O | C21H27FO2
